US07211601B2
(2S,4EZ)-4-benzylidene-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[2-(diethylamino)-ethyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 90% purity by LC/MS. MS(ESI+): m/z=482.4.

reactant | (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H21NO4
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-4-benzylidene-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[2-(diethylamino)-ethyl]-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C(=O)NCCN(CC)CC | C31H35N3O2
